US08748434B2
b) (4-o-Tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester
4-Dimethylaminopyridine (109 mg, 0.9 mmol) was added to a solution of 4-o-tolyl-pyrimidin-5-ylamine (330 mg, 1.78 mmol) and di-tert-butyldicarbonate (389 mg, 1.78 mmol) in dichloromethane (10 mL). After stirring for 2 hours, the product was isolated in pure form by directly loading the reaction mixture onto a silica gel column and eluting with 25% ethyl acetate in n-hexane (420 mg, 83%).

reactant | 4-o-tolyl-pyrimidin-5-ylamine | 1.78 mmol, 330 mg | C1(=C(C=CC=C1)C1=NC=NC=C1N)C | C11H11N3
reactant | di-tert-butyldicarbonate | 1.78 mmol, 389 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-Dimethylaminopyridine | 0.9 mmol, 109 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4-o-Tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=NC1)C1=C(C=CC=C1)C)=O | C16H19N3O2
